US06479536B1
Ethyl 3-(4-Isopropylphenyl)-2-methyl-2-propenoate
To a suspension of sodium hydride (a 60% dispersion in liquid paraffin, 5.92 g, 148 mmol) in N,N-dimethylformamide (150 ml) was added at 0° C. triethyl 2-phosphonopropionate (35.0 g, 148 mmol) and the resulting mixture was stirred at the same temperature for 10 minutes. To the reaction solution was added 4-isopropylbenzaldehyde (20.0 g, 135 mmol) and the resulting mixture was stirred at room temperature for 30 minutes. Water was added into the reaction solution and the product was extracted twice with ethyl acetate. The combined extracts were washed with water, dried on magnesium sulfate, and then concentrated under reduced pressure to obtain 30.1 g (96% yield) of the oily title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 148 mmol, 35.0 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 4-isopropylbenzaldehyde | 135 mmol, 20.0 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-(4-Isopropylphenyl)-2-methyl-2-propenoate | 30.1 g, 96% yield | C(C)(C)C1=CC=C(C=C1)C=C(C(=O)OCC)C | C15H20O2
